US06063908
A mixture of 4.0 g (0.015 mol) of D-lysergic acid and 200 mL of dry DMF, under argon, was treated with 3.6 g (0.022 mol) of carbonyl diimidazole and stirred at room temperature for 1 hour. The reaction was treated with 15.2 mL (0.15 mol) of diethylamine and stirred at room temperature overnight. The reaction was concentrated at reduced pressure. The residue was taken up in 250 mL of CH2Cl2 and washed with 250 mL of H2O. Insoluble material was removed by filtration and the layers were separated. The organic portion was washed with 250 mL of saturated brine solution, dried over anhydrous Na2SO4 and concentrated at reduced pressure. The residue was chromatographed on 500 g of silica gel using 3% CH3OH in CH2Cl2 as eluent to yield 3.65 g (75.7%) of D-LSD [α]D =+50.4° (c=1%; CHCl3) as a light brown amorphous solid. The 8α-epimer (also known as iso-LSD) has [α]D =+226° (c=1%; CHCl3).

reactant | D-lysergic acid | 0.015 mol, 4.0 g | OC(=O)[C@H]1CN(C)[C@@H]2CC3=CNC4=CC=CC(C2=C1)=C34 | C16H16N2O2
reactant | carbonyl diimidazole | 0.022 mol, 3.6 g | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
reactant | diethylamine | 0.15 mol, 15.2 mL | C(C)NCC | C4H11N
solvent | DMF | 200 mL | CN(C)C=O | C3H7NO
product | D-LSD | 3.65 g, 75.7% | CCN(CC)C(=O)[C@H]1CN([C@@H]2CC3=CNC4=CC=CC(=C34)C2=C1)C | C20H25N3O
